### PR TITLE
Construct modules via a displayed category over the category of abelian groups

### PR DESCRIPTION
**Pull request by arnoudvanderleer**

### CODE REVIEW

File: UniMath/Algebra/Modules/Core.v [hunk 1]
```diff
@@ -539,41 +299,37 @@ Proof.
...
+  apply subtypePath.
+  {
+    intro.
+    apply impred_isaprop.
+    intro.
+    apply homset_property.
+  }
+  apply abelian_group_morphism_paths.
+  exact p.
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:323]:
```suggestion
Qed.
```

File: UniMath/Algebra/Modules/Core.v [hunk 2]
```diff
@@ -539,41 +299,37 @@ Proof.
...
 
-Lemma modulefun_paths2 {R : ring} {M N : module R} {f g : modulefun M N} (p : pr1 f ~ pr1 g) :
+Lemma modulefun_paths2 {R : ring} {M N : module R} {f g : modulefun M N} (p : f ~ g) :
   f = g.
 Proof. exact (modulefun_paths (funextfun _ _ p)). Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:327]:
```suggestion
Proof. exact (modulefun_paths (funextfun _ _ p)). Qed.
```

File: UniMath/Algebra/Modules/Core.v [hunk 3]
```diff
@@ -729,36 +487,36 @@ Definition make_moduleiso {R} {M N : module R} f is : moduleiso M N := f ,, is.
...
-   apply idpath.
+  intros x y.
+  apply (invmaponpathsweq f).
+  rewrite (homotweqinvweq f (op x y)).
+  apply pathsinv0.
+  transitivity (op ((moduleiso_to_weq f) (invmap f x)) ((moduleiso_to_weq f) (invmap f y))).
+  apply (modulefun_to_isbinopfun f (invmap f x) (invmap f y)).
+  rewrite 2 (homotweqinvweq f).
+  apply idpath.
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:498]:
```suggestion
Qed.
```

File: UniMath/Algebra/Modules/Core.v [hunk 4]
```diff
@@ -729,36 +487,36 @@ Definition make_moduleiso {R} {M N : module R} f is : moduleiso M N := f ,, is.
...
+  intros r x.
+  apply (invmaponpathsweq f).
+  transitivity (module_mult N r x).
+  exact (homotweqinvweq f (module_mult N r x)).
+  transitivity (module_mult N r (moduleiso_to_weq f (invmap (moduleiso_to_weq f) x))).
+  rewrite (homotweqinvweq (moduleiso_to_weq f) x).
+  apply idpath.
+  apply pathsinv0.
+  apply (modulefun_to_islinear f).
 Defined.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:511]:
```suggestion
Qed.
```

File: UniMath/Algebra/Modules/Core.v [hunk 5]
```diff
@@ -800,7 +558,9 @@ Proof.
       + reflexivity.
       + apply isapropismonoidfun.
     * apply isapropislinear.
- - reflexivity.
+ - intro y.
+  apply (maponpaths (λ x, _ ,, x)).
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Core.v:562]: The indenting seems off here

File: UniMath/Algebra/Modules/Submodule.v [hunk 6]
```diff
@@ -112,13 +122,16 @@ Definition module_kernel {R : ring} {A B : module R} (f : modulefun A B) : submo
...
+(** * 3. Images *)
+
 Lemma issubmodule_image {R : ring} {A B : module R} (f : modulefun A B) :
   issubmodule (abgr_image_hsubtype (binopfun_to_abelian_group_morphism (modulefun_to_binopfun f))).
 Proof.
   split.
   - apply abgr_image_issubgr.
-  - intros r x. apply hinhfun. cbn. intro ap. induction ap as [a p].
-    split with (r * a). now rewrite (modulefun_to_islinear f), <- p.
+  - intros r x. apply hinhfun. intro ap. induction ap as [a p].
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Submodule.v:132]: How much can be made opaque here?

File: UniMath/Algebra/Modules/Submodule.v [hunk 7]
```diff
@@ -78,30 +89,29 @@ Lemma intersection_submodule {R : ring} {M : module R} {I : UU} (S : I -> hsubty
...
-(* Kernel and image *)
 Lemma issubmodule_kernel {R : ring} {A B : module R} (f : modulefun A B) :
   issubmodule (abgr_kernel_hsubtype (binopfun_to_abelian_group_morphism (modulefun_to_binopfun f))).
 Proof.
   split.
   - apply abgr_Kernel_subabgr_issubgr.
   - intros r x p.
-    cbn.
-    rewrite (modulefun_to_islinear f).
+    refine (modulefun_to_islinear f r x @ _).
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Submodule.v:114]: How much can be made opaque here?

File: UniMath/Algebra/Modules/Quotient.v [hunk 8]
```diff
@@ -133,28 +135,24 @@ Section quotmod_def.
...
-          simpl; unfold setquotfun2;
-            rewrite (setquotuniv2comm E), (setquotuniv2comm E), (setquotunivcomm E).
-        apply weqpathsinsetquot.
-        assert (H : r * (m + m') = r * m + r * m') by use module_mult_is_ldistr.
-        simpl in H; rewrite H.
-        use eqrelrefl.
-      * unfold unel, quotmod_ringact; simpl; rewrite (setquotunivcomm E).
-        apply maponpaths.
-        apply module_mult_1.
+    + apply make_isbinopfun.
```
Comment (nmvdw) [inline UniMath/Algebra/Modules/Quotient.v:142]: Here more can be made opaque

**Review by nmvdw — APPROVED** [review]

File: UniMath/Algebra/Modules/Core.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/Algebra/Modules/Core.v:562]: Ah, good catch

File: UniMath/Algebra/Modules/Submodule.v (hunk 6 above)
Comment (arnoudvanderleer) [reply UniMath/Algebra/Modules/Submodule.v:132]: Probably a lot. I will take a look.

Comment (nmvdw) [reply UniMath/Algebra/Modules/Submodule.v:140]: Tell me when you dealt with these comments.

Comment (arnoudvanderleer) [reply UniMath/Algebra/Modules/Submodule.v:140]: I did it this afternoon :-)
